US07935719B2
Preparation of (3′S)-1′-[4-(1H-benzimidazol-1-yl)benzyl]-1,3′-bipyrrolidine hydrochloride
A solution of (3′S)-1′-[4-(1H-benzimidazol-1-yl)benzoyl]-1,3′-bipyrrolidine (0.041 g, 0.113 mmol) in THF is treated with 1.0 M Borane-THF (0.098 g, 1.13 mmol) at room temperature, stirred for 12 hours and concentrated under vacuum. The resultant residue is dissolved in methanol, and treated with 1.0 M HCl-Et2O (0.004 g, 0.113 mmol), heated at reflux temperature for 3 hours and concentrated under vacuum to afford an oil residue. The residue is dissolved in CH2Cl2, washed with saturated NaHCO3 solution, dried over MgSO4 and concentrated in vacuo. Purification of the concentrate by flash column chromatography (silica, 2% NH4OH:MeOH:CH2Cl2 5:3:95), followed by treatment with ethereal HCl, provides the title product as a yellow solid, 0.036 g (65% yield), identified by NMR and mass spectral analyses. MS [347.2 m/e (M+H)].

reactant | (3′S)-1′-[4-(1H-benzimidazol-1-yl)benzoyl]-1,3′-bipyrrolidine | 0.113 mmol, 0.041 g | N1(C=NC2=C1C=CC=C2)C2=CC=C(C(=O)N1C[C@H](CC1)N1CCCC1)C=C2 | C22H24N4O
reactant | Borane THF | 1.13 mmol, 1.0 M, 0.098 g | B.C1CCOC1
reactant | HCl Et2O | 0.113 mmol, 1.0 M, 0.004 g | Cl.CCOCC
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3′S)-1′-[4-(1H-benzimidazol-1-yl)benzyl]-1,3′-bipyrrolidine hydrochloride | 65% yield | Cl.N1(C=NC2=C1C=CC=C2)C2=CC=C(CN1C[C@H](CC1)N1CCCC1)C=C2 | InChI=1S/C22H26N4.ClH/c1-2-6-22-21(5-1)23-17-26(22)19-9-7-18(8-10-19)15-24-14-11-20(16-24)25-12-3-4-13-25;/h1-2,5-10,17,20H,3-4,11-16H2;1H/t20-;/m0./s1
